US05136868
A stirred solution of 20.0 g (0.137 mole) of 2-chloro-4-fluorophenol in 150 mL of pyridine was cooled in an ice bath. To this solution was added portionwise 31.2 g (0.164 mole) of 4-methylphenylsulfonyl chloride. After complete addition, the mixture was stirred for 2 hours, then allowed to stand in a freezer for approximately 16 hours. The mixture was poured into ice water, filtered, and the filter cake washed with water. The solid was dried in a dessicator to yield 41.0 g of 2-chloro-4-fluorophenyl 4-methylphenylsulfonate, mp 92°-94° C.

reactant | 2-chloro-4-fluorophenol | 0.137 mole, 20.0 g | ClC1=C(C=CC(=C1)F)O | C6H4ClFO
reactant | 4-methylphenylsulfonyl chloride | 0.164 mole, 31.2 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
product | 2-chloro-4-fluorophenyl 4-methylphenylsulfonate | 41.0 g | CC1=CC=C(C=C1)S(=O)(=O)OC1=C(C=C(C=C1)F)Cl | C13H10ClFO3S
